US08314081B2
To a 250 mL dry round bottom flask were added 2,6-difluoro-4-hydroxy-benzaldehyde (4.80 g, 30.4 mmol), anhydrous CH2Cl2 (30 mL) and pyridine (3.0 mL, 36.5 mmol). The mixture was stirred in an ice-water bath, then a solution of isopropyl chloroformate in toluene (1.0 M, 33.4 mL) was added. After stirring at 0° C. for 2 hours, the mixture was stirred at room temperature overnight. Water (80 mL) was added to the reaction mixture. The CH2Cl2 layer was separated, and the aqueous layer was extracted continually with CH2Cl2 (80 mL×3). The combined CH2Cl2 solution was dried over Na2SO4. After removal of the solvent, the residue was purified with a silica gel chromatography (heptane/ethyl acetate, gradient eluting) to give 3,5-difluoro-4-formylphenyl isopropyl carbonate (6.20 g) as a colorless oil. Yield: 84%. 1H NMR (CDCl3, 300 MHz): δ=10.30 (s, 1H), 7.02-6.96 (m, 2H), 5.03 (seventet, J=6.3 Hz, 1H), 1.43 (d, J=6.3 Hz, 6H). 13C NMR (CDCl3, 75.5 MHz): δ=183.3, 163.6 (dd, J=262.5, 7.92 Hz), 156.3 (t, J=15.2 Hz), 151.1, 111.9 (t, J=11.5 Hz), 106.0 (dd, J=25.1, 3.62 Hz), 74.5, 21.5. 19F NMR (CDCl3, 282.3 MHz): δ=−113.0 (d, J=9.0 Hz).

reactant | 2,6-difluoro-4-hydroxy-benzaldehyde | 30.4 mmol, 4.80 g | FC1=C(C=O)C(=CC(=C1)O)F | C7H4F2O2
reactant | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
reactant | pyridine | 36.5 mmol, 3.0 mL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
solvent | toluene | 1.0 M, 33.4 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 80 mL | O | H2O
product | 3,5-difluoro-4-formylphenyl isopropyl carbonate | 6.20 g, Yield: 84% | C(OC1=CC(=C(C(=C1)F)C=O)F)(OC(C)C)=O | C11H10F2O4
